US09216943B2
Preparation of 3-nitro-1-(4-octylphenyl)propan-1-ol
3-Nitro-1-(4-octylphenyl)propan-1-one (75 g) and methanol (750 mL) are charged into a round bottom flask equipped with a condenser and guard tube, stirred to 10 minutes and the mixture is cooled to 6° C. Sodium borohydride (20.2 g) is added in portions over 30 minutes. Allowed the mixture to room temperature, stirred for 3 hours and solvent is removed under reduced pressure to obtain a solid. The solid is diluted with water (1000 mL), ethyl acetate (1000 mL) is added, the separated solid is filtered. The solid, ethyl acetate (200 mL), and water (200 mL) are charged in a round bottom flask and stirred at room temperature, and 6N HCl (100 mL) is added drop-wise. The organic layer is separated, washed with water (200 mL), dried over sodium sulphate, and concentrated under reduced pressure to give the title compound as a yellow liquid. Yield: 30 g.

reactant | 3-Nitro-1-(4-octylphenyl)propan-1-one | 75 g | [N+](=O)([O-])CCC(=O)C1=CC=C(C=C1)CCCCCCCC | C17H25NO3
reactant | methanol | 750 mL | CO | CH4O
reactant | Sodium borohydride | 20.2 g | [BH4-].[Na+]
solvent | water | 1000 mL | O | H2O
solvent | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
product | 3-nitro-1-(4-octylphenyl)propan-1-ol | [N+](=O)([O-])CCC(O)C1=CC=C(C=C1)CCCCCCCC | C17H27NO3
